US08198269B2
(4) Synthesis of (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aR*)-8a-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophen-2-yl]-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine
Bis(pinacolato)diboron (2.15 g), potassium acetate (663 mg) and a 1,1′-bis(diphenylphosphino)ferrocene palladium-dichloromethane complex (138 mg) were added to a solution of (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine (900 mg) in DMF (46.9 ml). After replacement with nitrogen, the mixture was stirred at 80° C. for six hours. The reaction solution was returned to room temperature and diluted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (790 mg).

reactant | Bis(pinacolato)diboron | 2.15 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 663 mg | C(C)(=O)[O-].[K+]
reactant | (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aS*)-8a-(4-bromothiophen-2-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 900 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@@]2(COCC[C@H]2CS1)C=1SC=C(C1)Br | C21H29BrN2O5S2
solvent | DMF | 46.9 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,8aR*)-8a-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophen-2-yl]-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 790 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(COCC[C@H]2CS1)C=1SC=C(C1)B1OC(C(O1)(C)C)(C)C | C27H41BN2O7S2
